US07705027B2
5-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-isoxazole-3-carboxylic acid ethyl ester was dissolved in excess 2M ethylamine in methanol and heated in the Smith Synthesiser microwave at 120° C. for 600 seconds. The solution was concentrated in vacuo to give a solid which was purified by hexane trituration, to give 5-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-isoxazole-3-carboxylic acid ethylamide.

reactant | 5-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-isoxazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NOC(=C1)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C29H29NO5
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | methanol | CO | CH4O
product | 5-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-isoxazole-3-carboxylic acid ethylamide | C(C)NC(=O)C1=NOC(=C1)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C29H30N2O4
